US04433152
3 g of 1-amidino-3-piperidinebutyric acid hydrochloride, 4.2 g of diphenylsulfite, 30 ml of dry dimethylformamide and 3 ml of dry pyridine were reacted for 19.5 hours in accordance with the procedure employed in Example 63. The solvent was removed, and the residue was washed with dry ether to obtain 3.9 g of phenyl 1-amidino-3-piperidinebutyrate hydrochloride as an oil.

reactant | 1-amidino-3-piperidinebutyric acid hydrochloride | 3 g | Cl.C(N)(=N)N1CC(CCC1)CCCC(=O)O
reactant | diphenylsulfite | 4.2 g | C1(=CC=CC=C1)OS(=O)OC1=CC=CC=C1 | C12H10O3S
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | phenyl 1-amidino-3-piperidinebutyrate hydrochloride | 3.9 g | Cl.C(N)(=N)N1CC(CCC1)CCCC(=O)OC1=CC=CC=C1 | InChI=1S/C16H23N3O2.ClH/c17-16(18)19-11-5-7-13(12-19)6-4-10-15(20)21-14-8-2-1-3-9-14;/h1-3,8-9,13H,4-7,10-12H2,(H3,17,18);1H
